US07608629B2
2-Chloro-4-fluoro-N-[6-(cis-2-methyl-piperidin-4-yloxy)-pyridin-2-yl]-benzamide isomer 2
Add 1 mL of conc. hydrochloric acid into a solution of 4-[6-(2-chloro-4-fluoro-benzoylamino)-pyridin-2-yloxy]-cis-2-methyl-piperidine-1-carboxylic acid tert-butyl ester isomer 2 (preparation 109, 0.678 g) in 1,4-dioxane 20 mL and heat at 100° C. After 40 min., partition between ethyl acetate and saturated aqueous NaCl, dry over anhydrous sodium sulfate, evaporate and purify on a silica gel column eluting with dichloromethane-2M NH3 in methanol, gradient to give the title compound (0.53 g). Mass spectrum (electric spray) m/z=364 (M+1); 1H NMR (CDCl3): 8.53 (br s, 1H), 7.84 (br d, 1H), 7.73 (dd, 1H), 7.63 (dd, 1H), 7.21 (dd, 1H), 7.10 (ddd, 1H), 6.49 (dd, 1H), 4.93 (m, 1H), 3.14 (m, 1H), 2.78 (m, 2H), 2.12 (m, 2H), 1.75 (br, 1H), 1.48 (m, 1H), 1.19 (m, 1H), 1.12 (d, 3H).

reactant | hydrochloric acid | 1 mL | Cl | ClH
reactant | 4-[6-(2-chloro-4-fluoro-benzoylamino)-pyridin-2-yloxy]-cis-2-methyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](CC1)OC1=NC(=CC=C1)NC(C1=C(C=C(C=C1)F)Cl)=O)C | C23H27ClFN3O4
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-Chloro-4-fluoro-N-[6-(cis-2-methyl-piperidin-4-yloxy)-pyridin-2-yl]-benzamide | 0.53 g | ClC1=C(C(=O)NC2=NC(=CC=C2)O[C@@H]2C[C@@H](NCC2)C)C=CC(=C1)F | C18H19ClFN3O2
